US04496737
N-Sulfamyl-3-(methylsulfinyl)propionamidine
A solution of commercial 80% pure m-chloroperbenzoic acid (5.4 g, 25 mmol) in chloroform (40 ml) was added dropwise to a solution of N-sulfamyl-3-(methylthio)propionamidine (4.94 g, 25 mmol) in methanol (50 ml) at room temperature. After stirring for two hours, the product was collected by filtration, analytically pure, to give 4.44 g, mp 141°-144°.

reactant | m-chloroperbenzoic acid | 25 mmol, 5.4 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | N-sulfamyl-3-(methylthio)propionamidine | 25 mmol, 4.94 g | S(N)(=O)(=O)NC(CCSC)=N | C4H11N3O2S2
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 50 ml | CO | CH4O
product | N-Sulfamyl-3-(methylsulfinyl)propionamidine | S(N)(=O)(=O)NC(CCS(=O)C)=N | C4H11N3O3S2
